US06187805B1
c) N,N-Dimethyl-3-[1-( benzenesulphonyl)-1H-indol-4-yl]propionamide
Trimethylaluminium (1.4 ml, 2M solution in hexanes) was added to a suspension of dimethylamine hydrochloride (228 mg, 2.8 mmol) in 10 ml benzene. The reaction was allowed to stir for 1 h before dropwise addition of a solution of 3-[1-(benzenesulphonyl)-1H-indol-4-yl]propionic acid ethyl ester (0.5 g, 1.4 mmol) in benzene (10 ml). The reaction was heated at reflux for 18 h, allowed to cool and then quenched by addition of HCl (2N, 5 ml). The reaction was partitioned between H2O-EtOAc. The organic phase was washed with brine, dried (MgSO4), and concentrated to give the title compound as an oil which crystallised (527 mg, 100%); δH (CDCl3, 250 MHz), 2.63 (2H, t, J=7.5 Hz), 2.79 (2H, br s), 3.16 (2H, t, J=8.5 Hz), 6.74 (1H, d, J=0.7 Hz), 6.08 (1H, d, J=7.5 Hz), 7.21-7.27 (1H, m), 7.41-7.58 (4H, m), 7.84-7.90 (3H, m).

reactant | Trimethylaluminium | 2M, 1.4 ml | C[Al](C)C
reactant | dimethylamine hydrochloride | 2.8 mmol, 228 mg | Cl.CNC
reactant | 3-[1-(benzenesulphonyl)-1H-indol-4-yl]propionic acid ethyl ester | 1.4 mmol, 0.5 g | C(C)OC(CCC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=CC=C1)=O | C19H19NO4S
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | N,N-Dimethyl-3-[1-( benzenesulphonyl)-1H-indol-4-yl]propionamide | CN(C(CCC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=CC=C1)=O)C | C19H20N2O3S
